US08242145B2
Step 1: {3-[4′-Methanesulfonyl-3-(2-oxo-oxazolidin-3-ylmethyl)-biphenyl-4-yloxy]-phenyl}-acetic acid ethyl ester
Prepared according to the procedure described in Example 84, Step 1, using the following starting materials: {3-[4-bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester and 4-(methanesulfonyl)phenylboronic acid.

reactant | {3-[4-bromo-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(OCC1)=O)=O | C20H20BrNO5
reactant | 4-(methanesulfonyl)phenylboronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
product | {3-[4′-Methanesulfonyl-3-(2-oxo-oxazolidin-3-ylmethyl)-biphenyl-4-yloxy]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)CN1C(OCC1)=O)=O | C27H27NO7S
